US05021431
N-[3-(Imidazol-4-yl)propyl]-N'-(3-phenylpropyl)-guanidine
0.73 g (1.9 mmol) of N-benzoyl-N'-[(3-imidazol-4-yl) propyl]-N"-(3-phenylpropyl)-guanidine are heated under reflux in 45 ml of 20% hydrochloric acid for 7 hours. The method of working up is analogous to that of Example 58.

reactant | N-benzoyl-N'-[(3-imidazol-4-yl) propyl]-N"-(3-phenylpropyl)-guanidine | 1.9 mmol, 0.73 g | C(C1=CC=CC=C1)(=O)NC(=NCCCC1=CC=CC=C1)NCCCC=1N=CNC1 | C23H27N5O
solvent | hydrochloric acid | 45 ml | Cl | ClH
product | N-[3-(Imidazol-4-yl)propyl]-N'-(3-phenylpropyl)-guanidine | N1C=NC(=C1)CCCNC(=N)NCCCC1=CC=CC=C1 | C16H23N5
